US04661513
1-[4-(2-Methoxyethyl)phenoxy]-3-[2-(tetrahydropyran-3-ylcarbonylamino)ethylamino]-2-propanol
5 g of 1-(2,3-epoxypropoxy)-4-(2-methoxyethoxy)benzene and 6 g of N-(2-aminoethyl)tetrahydropyran-3-carboxamide are heated together at 130° for 30 minutes. The mixture is allowed to cool and then dissolved in ethyl acetate and worked up in the usual manner. The title compound is obtained (M.P. 107°-108°--from methanol/ethylacetate).

reactant | 1-(2,3-epoxypropoxy)-4-(2-methoxyethoxy)benzene | 5 g | O1C(COC2=CC=C(C=C2)OCCOC)C1 | C12H16O4
reactant | N-(2-aminoethyl)tetrahydropyran-3-carboxamide | 6 g | NCCNC(=O)C1COCCC1 | C8H16N2O2
reactant | methanol ethylacetate | CO.C(C)OC(C)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2-Methoxyethyl)phenoxy]-3-[2-(tetrahydropyran-3-ylcarbonylamino)ethylamino]-2-propanol | COCCC1=CC=C(OCC(CNCCNC(=O)C2COCCC2)O)C=C1 | C20H32N2O5
